US06620838B1
D. 3(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-hydroxychromen-2-one
A solution of 3-(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-methoxychromen-2-one (16.5 grams, 33 mmol) and 150 mL of 30% HBr/HOAc in a sealed tube was warmed at 100° C. for 8 h. The reaction mixture was cooled to room temperature and poured into 300 mL of water. The resulting solid was collected by filtration and purified using flash chromatography to provide the desired product (12.5 g, 78%). 1H NMR (300 MHz, DMSO) δ 10.55 (s, 1H), 7.47 (d, 2H, J=8.5 Hz), 7.43 (d, 1H, J=8.8 Hz), 7.33 (d, 2H, J=8.5 Hz), 7.05 (d, 2H, J=8.5 Hz), 6.83 (d, 2H, J=8.5 Hz), 6.75 (d, 1H, J=2.2 Hz), 6.70 (dd, 1H, J=8.8, 2.2 Hz), 4.24 (t, 2H, J=5.7 Hz), 3.94 (s, 2H), 3.76 (t, 2H, J=5.7 Hz). MS (ESI) m/z 486 (M+H)+.

reactant | 3-(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-methoxychromen-2-one | 33 mmol, 16.5 grams | ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCBr)OC)=O | C25H20BrClO4
reactant | HBr HOAc | 150 mL | Br.CC(=O)O
solvent | water | 300 mL | O | H2O
product | 3(4-chlorophenyl)-4-(4-(2-bromoethoxy)benzyl)-7-hydroxychromen-2-one | 12.5 g, 78% | ClC1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCBr)O)=O | C24H18BrClO4
